US06414148B1
A mixture of 7-benzyloxy-4-chloro-6-methoxyquinazoline (2.18 g, 7.25 mmol), 3-acetoxy-4-methylaniline (1.32 g, 8 mmol) and 2-propanol (50 ml) was stirred and heated to reflux for 1 hour. The mixture was cooled to ambient temperature. The precipitate was collected by filtration, washed with 2-propanol and ether to give 4-(3-acetoxy-4-methylanilino)-7-benzyloxy-6-methoxyquinazoline. A mixture of 4-(3-acetoxy-4-methylanilino)-7-benzyloxy-6-methoxyquinazoline (2.68 g, 5.75 mmol), 10% palladium-on-charcoal catalyst (0.27 g) in methanol (50 ml), DMF (12 ml) and trichloromethane (50 ml) was stirred at ambient temperature under 1.5 atmospheres of hydrogen for 30 minutes. The catalyst was removed by filtration and the filtrate evaporated. The residual solid was triturated in ether, collected by filtration and dried under vacuum at 50° C. to give 4-(3-acetoxy-4-methylanilino)-7-hydroxy-6-methoxyquinazoline (2.1 g, 100%).

reactant | 4-(3-acetoxy-4-methylanilino)-7-benzyloxy-6-methoxyquinazoline | 5.75 mmol, 2.68 g | C(C)(=O)OC=1C=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCC2=CC=CC=C2)C=CC1C | C25H23N3O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | 0.27 g | [Pd] | Pd
solvent | methanol | 50 ml | CO | CH4O
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
solvent | trichloromethane | 50 ml | ClC(Cl)Cl | CHCl3
product | 4-(3-acetoxy-4-methylanilino)-7-hydroxy-6-methoxyquinazoline | 2.1 g, 100% | C(C)(=O)OC=1C=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=CC1C | C18H17N3O4
